US05223117
Au microelectrodes (approximately 103 μm2) or Au macroelectrodes (approximately 1 cm2) can be modified with QH2 or Fc by dipping the Au into solutions containing one or both of the thiol reagents. Preparation of 2-(8-mercapto-octyl)hydroquinone involves several steps: 1,4-dimethoxy-benzene was deprotonated with n-butyllithium and added to excess 1,8-dibromo-octane; vacuum distillation afforded 2-(8-bromo-octyl)-1,4-dimethoxybenzene; demethylation was accomplished in quantitative yield with BBr3 ; the bromide was displaced by thioacetate; and subsequent hydrolysis under acidic conditions yields the thiol which was purified by chromatography. Materials were characterized by 1H NMR spectroscopy. Anal. Calcd (Found) for C14H22O2S: C, 66.10 (66.21); H, 8.72 (8.58); S, 12.60 (12.57). The molecules self-assemble onto the Au surfaces when the Au is placed into approximately 1 mM solution of Fc or QH2 in tetrahydrofuran (THF) or ethanol:hexane, 1:1. Mixtures of Fc and QH2 self-assemble onto Au from a QH2 :Fc, 2:1 mixture in THF or in ethanol:hexane, 1:1, at a total thiol concentration of approximately 1 mM. All derivatizations were carried out under argon at 25° C. for approximately 24 hr.

reactant | 2-(8-mercapto-octyl)hydroquinone | SCCCCCCCCC1=C(O)C=CC(=C1)O | C14H22O2S
reactant | 1,4-dimethoxy-benzene | COC1=CC=C(C=C1)OC | C8H10O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,8-dibromo-octane | BrCCCCCCCCBr | C8H16Br2
product | 2-(8-bromo-octyl)-1,4-dimethoxybenzene | quantitative yield | BrCCCCCCCCC1=C(C=CC(=C1)OC)OC | C16H25BrO2
